US08357688B2
To a mixture of 560 mg of 1-[cis-2-{[tert-butyl(dimethyl)silyl]oxy}cyclopentyl]-7-(1,3-dihydro-2H-isoindol-2-ylcarbonyl)-8-methylimidazo[1,5-a]quinoxalin-4(5H)-one and 20.0 mL of methanol was added 0.2 mL of concentrated hydrochloric acid, followed by stirring at room temperature overnight. The reaction liquid was concentrated under reduced pressure, and then, the residue was dissolved in water. A saturated aqueous sodium hydrogen carbonate solution was added thereto to adjust the pH to about 5, followed by extraction with a mixed solvent of chloroform/methanol=4/1, the organic layer was dried over anhydrous magnesium sulfate, and then the solvent was evaporated. The obtained residue was purified by silica gel column chromatography (chloroform/methanol=97/3-90/10) to give a powder from 2-propanol, thereby obtaining 333 mg of 7-(1,3-dihydro-2H-isoindol-2-ylcarbonyl)-1-[cis-2-hydroxycyclopentyl]-8-methylimidazo[1,5-a]quinoxalin-4(5H)-one as a colorless solid.

reactant | 1-[cis-2-{[tert-butyl(dimethyl)silyl]oxy}cyclopentyl]-7-(1,3-dihydro-2H-isoindol-2-ylcarbonyl)-8-methylimidazo[1,5-a]quinoxalin-4(5H)-one | 560 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]1[C@@H](CCC1)C1=NC=C2N1C1=CC(=C(C=C1NC2=O)C(=O)N2CC1=CC=CC=C1C2)C | C31H38N4O3Si
reactant | hydrochloric acid | 0.2 mL | Cl | ClH
solvent | methanol | 20.0 mL | CO | CH4O
product | 7-(1,3-dihydro-2H-isoindol-2-ylcarbonyl)-1-[cis-2-hydroxycyclopentyl]-8-methylimidazo[1,5-a]quinoxalin-4(5H)-one | 333 mg | C1N(CC2=CC=CC=C12)C(=O)C=1C=C2NC(C=3N(C2=CC1C)C(=NC3)[C@H]3[C@H](CCC3)O)=O | C25H24N4O3
